US03953604
A solution of 2,6-dihydroxyacetophenone (30.4 g), p-fluorophenylglycidyl ether (33.6 g), and benzyltrimethylammonium hydroxide (1 ml of a 40% solution) in 2-ethoxyethanol (150 ml) was heated under reflux for 48 hours. After removal of solvent under reduced pressure, the residual viscous oil was triturated with ether, filtered of, and washed with ether to give a yellow powder. Crystallization from aqueous ethanol gave 1-(2-acetyl-3-hydroxyphenoxy)- 2-hydroxy-3-(p-fluorophenoxy)propane (39.2 g) as cream needles m.p. 111°-113° C.

reactant | 2,6-dihydroxyacetophenone | 30.4 g | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | p-fluorophenylglycidyl ether | 33.6 g | FC1=CC=C(C=C1)C(C1CO1)OC(C1CO1)C1=CC=C(C=C1)F | C18H16F2O3
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 2-ethoxyethanol | 150 ml | C(C)OCCO | C4H10O2
product | 1-(2-acetyl-3-hydroxyphenoxy)- 2-hydroxy-3-(p-fluorophenoxy)propane | 39.2 g | C(C)(=O)C1=C(OCC(COC2=CC=C(C=C2)F)O)C=CC=C1O | C17H17FO5
